US07781576B2
2-Deoxy-2-fluoro-3,4-O-isopropylidene-2-C-methyl-D-ribono-1,5-lactone (1.29 g, 6.317 mmol) was dissolved in anhydrous 1,4-dioxane (36.7 ml) under an atmosphere of argon. A pre-mixed solution of trifluoroacetic acid (146.8 ml) in water (36.7 ml) was added to the mixture slowly at room temperature. After 48 h, t.l.c. (ethyl acetate/heptane, 3:1) indicated conversion of the starting material (Rf 0.57) to faint products (Rf 0.47, 0.43, 0.38). The solvents were removed in vacuo at 35° C. and then coevaporated with toluene (5 ml×2). The crude off-white/brown residue (1.27 g) was purified by flash column chromatography (pre-adsorbed onto silica from ethyl acetate, eluted with ethyl acetate/heptane, 2:1) to give 2-deoxy-2-fluoro-2-C-methyl-D-ribono-1,4-lactone (862 mg, 83%, eluted second) as a white solid and 2-deoxy-2-fluoro-2-C-methyl-D-ribono-1,5-lactone (61 mg, 6%, eluted first) as a white solid, along with mixed fractions (115 mg, 11%).

reactant | trifluoroacetic acid | 146.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
reactant | 1,4-dioxane | 36.7 ml | O1CCOCC1 | C4H8O2
solvent | water | 36.7 ml | O | H2O
product | 2-deoxy-2-fluoro-2-C-methyl-D-ribono-1,4-lactone | 862 mg, 83% | F[C@]1(C(=O)O[C@@H]([C@H]1O)CO)C | C6H9FO4
